US07423147B2
Step A. (6-Bromo-pyridin-2-ylmethyl)-(2-methoxy-ethyl)-amine.
The title compound was prepared in a manner similar to that described in Example 18, Step C, using 6-bromo-pyridine-2-carbaldehyde (0.275 g, 1.48 mmol) and 2-methoxy-ethylamine (0.111 g, 1.48 mmol). The crude product was purified (SiO2: 0-5% MeOH/DCM) to yield the title compound (0.34 g, 94%).

reactant | 6-bromo-pyridine-2-carbaldehyde | 1.48 mmol, 0.275 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 2-methoxy-ethylamine | 1.48 mmol, 0.111 g | COCCN | C3H9NO
product | (6-Bromo-pyridin-2-ylmethyl)-(2-methoxy-ethyl)-amine | 0.34 g, 94% | BrC1=CC=CC(=N1)CNCCOC | C9H13BrN2O
